US04927548
Production of basic calcium myristate
114.5 g of myristic acid and 38.9 g of calcium hydroxide were stirred at 35° to 40° C., and 0.3% acetic acid was added as catalyst. The mass initially underwent slight compaction but then changed into a white voluminous powder. During the reaction, the temperature rose to 70°-80° C. The total stirring time was 3 minutes. A white voluminous powder having a Ca content of 13.6%, a melting temperature of 180° to more than 250° C., and an acid value of 1.6 was obtained.

reactant | myristic acid | 114.5 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | calcium hydroxide | 38.9 g | [OH-].[Ca+2].[OH-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | calcium myristate | C(CCCCCCCCCCCCC)(=O)[O-].[Ca+2].C(CCCCCCCCCCCCC)(=O)[O-] | InChI=1S/2C14H28O2.Ca/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14(15)16;/h2*2-13H2,1H3,(H,15,16);/q;;+2/p-2
